US07074819B2
Step 1) Synthesis of 4-(Bromophenyl)-(1,3)-dioxolane.
In a round-bottomed flask equipped with a Dean Stark trap and a condenser, was added a solution of p-Bromobenzaldehyde (5 g, 27 mmol) in toluene (25 mL). To this mixture were then added p-toluenesulfonic acid (50 mg, 0.26 mmol) and etylene glycol (1.84 g, 29.7 mmol). The mixture was heated to reflux under nitrogen atmosphere for 8 h. The progress of the reaction was monitored by TLC. When the reaction was complete, the mixture was cooled down, the solvent was removed under reduced pressure, the residue material was distilled to give an oil (5.49 g, 89%).

reactant | p-Bromobenzaldehyde | 27 mmol, 5 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | etylene glycol | 29.7 mmol, 1.84 g | C(CO)O | C2H6O2
reactant | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 0.26 mmol, 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 4-(Bromophenyl)-(1,3)-dioxolane | 5.49 g, 89% | BrC1=C(C=CC=C1)C1OCOC1 | C9H9BrO2
